US09302986B2
To a stirring solution of (Z)-tert-butyl 3-fluoro-2-(hydroxymethyl)-allylcarbamate (0.50 g, 2.44 mmol) in acetone (15 mL) at 0° C. under N2 was added sequentially triethylamine (0.51 mL, 3.65 mmol) and methanesulfonyl chloride (0.23 mL, 2.92 mmol). The resulting mixture was stirred at this temperature for 30 min. The reaction mixture was filtered to remove the precipitated salts and the filter cake was washed with further acetone (10 mL). The filtrate was charged with lithium bromide (1.06 g, 12.18 mmol) and the resulting suspension was stirred at room temperature for 1 h. The reaction mixture was partitioned between water (25 mL) and ethyl acetate (25 mL) and the aqueous layer was extracted with further ethyl acetate (25 mL). The combined organics were washed with brine (25 mL), dried over Na2SO4 and concentrated in vacuo to give (Z)-tert-butyl 2-(bromomethyl)-3-fluoroallylcarbamate as a pale yellow oil (0.63 g, 96%). 1H-NMR (300 MHz; CDCl3) δ ppm: 1.47 (9H, s), 3.80 (2H, br s), 4.09 (2H, d, J 2.6 Hz), 4.75 (1H, br s), 6.65 (1H, d, J 81.9 Hz).

reactant | (Z)-tert-butyl 3-fluoro-2-(hydroxymethyl)-allylcarbamate | 2.44 mmol, 0.50 g | F\C=C(\CNC(OC(C)(C)C)=O)/CO | C9H16FNO3
reactant | triethylamine | 3.65 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.92 mmol, 0.23 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 12.18 mmol, 1.06 g | [Br-].[Li+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | (Z)-tert-butyl 2-(bromomethyl)-3-fluoroallylcarbamate | 0.63 g, 96% | BrC\C(\CNC(OC(C)(C)C)=O)=C/F | C9H15BrFNO2
